US04983633
4-[2-(1-Pyrrolidinyl)ethoxy]benzaldehyde
A mixture of 2.29 g of 4-(2-bromoethoxy)benzaldehyde, 1.42 g of pyrrolidine and 2.07 g of potassium carbonate in 8 ml of N,N-dimethylformamide was stirred at 60° C. for 2 hours. After cooling, water was added and the whole was extracted with ethyl acetate. The ethyl acetate layer was extracted with aqueous hydrochloric acid. The aqueous layer was made alkaline with potassium carbonate and extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The residue was distilled to give 1.72 g of colorless oil, b.p. 170° C. (5 mmHg).

reactant | 4-(2-bromoethoxy)benzaldehyde | 2.29 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | pyrrolidine | 1.42 g | N1CCCC1 | C4H9N
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 4-[2-(1-Pyrrolidinyl)ethoxy]benzaldehyde | 1.72 g | N1(CCCC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO2
